US03936468
To a solution of 15 g of β-p-fluorobenzoyl-propionic acid and 8.0 g of triethylamine in 100 ml of tetrahydrofuran, was gradually added 8.3 g of ethyl chlorocarbonate while the reaction mixture was kept below 0°C. After being stirred for 25 minutes at a temperature below 0°C, the mixture was added with 6.5 g of piperidine and stirred for another 2 hours. Then the precipitate formed was filtered off and the filtrate was concentrated to dryness under reduced pressure. The residue was recrystallized from hexane to obtain 11 g of 1-(β-p-fluorobenzoylpropionyl)piperidine, melting at 70° - 71°C.

reactant | β-p-fluorobenzoyl-propionic acid | 15 g | FC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9FO3
reactant | triethylamine | 8.0 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 8.3 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | piperidine | 6.5 g | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(β-p-fluorobenzoylpropionyl)piperidine | 11 g | FC1=CC=C(C(=O)CCC(=O)N2CCCCC2)C=C1 | C15H18FNO2
